US05077304
2.0 g of methyl iodide are added at room temperature to 2.50 g of 1-tert.-butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea in 30 ml of ethanol and the mixture is heated at +75° C. for 5 hours. The mixture is then concentrated by evaporation and the residue is taken up in methylene chloride and washed twice with dilute sodium bicarbonate solution. The organic phase is dried over magnesium sulfate and the solvent is evaporated. The crude product is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 1:3). 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-S-methyl-isothiourea is obtained in the form of a colourless crystalline powder, m.p. 95°-100° C.

reactant | methyl iodide | 2.0 g | CI | CH3I
reactant | 1-tert.-butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea | C(C)(C)(C)NC(=S)NC=1C(=NC(=CC1C(C)C)OC1=CC=C(C=C1)Cl)C(C)C | C22H30ClN3OS
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-S-methyl-isothiourea | C(C)(C)(C)NC(SC)=NC=1C(=NC(=CC1C(C)C)OC1=CC=C(C=C1)Cl)C(C)C | C23H32ClN3OS
